US04367238
Dimethyl sulfate (5.7 g) was added to a mixture of 2-hydroxy-3-(2-chlorophenylthio)benzyl alcohol (6 g) and potassium hydroxide (3.8 g) in water (20 ml) in 10 minutes with stirring. The mixture was stirred at 50° C. for 1.5 hours, and the reaction mixture was treated in a similar manner to that of Example 21-(4) to give oily 2-methoxy-3-(2-chlorophenylthio)benzyl alcohol (6.1 g). This product was purified by column chromatography (silica gel 100 g, benzene-ethyl acetate 10:1) to give purified oily substance (5.6 g). This product was identified with the compound obtained in Example 21-(5) by IR and NMR spectrum.

reactant | Dimethyl sulfate | 5.7 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 2-hydroxy-3-(2-chlorophenylthio)benzyl alcohol | 6 g | OC1=C(CO)C=CC=C1SC1=C(C=CC=C1)Cl | C13H11ClO2S
reactant | potassium hydroxide | 3.8 g | [OH-].[K+]
solvent | water | 20 ml | O | H2O
product | 2-methoxy-3-(2-chlorophenylthio)benzyl alcohol | 6.1 g | COC1=C(CO)C=CC=C1SC1=C(C=CC=C1)Cl | C14H13ClO2S
